Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"Severe, refractory depression"
 
Major Surgical or Invasive Procedure:
12 ECT Treatments
 
History of Present Illness:
This is a ___ yo man with history of
severe, recurrent major depressive disorder, alcohol use
disorder, and mixed personality disorder with borderline and
paranoid traits, directly admitted from home to ___ psychiatry
unit for ECT treatment.  He reports his depressed mood had been
worse for months, and he often self-medicates with alcohol.  He
reports having intermittent SI on-and-off for much of his life,
but over the past ___ months his suicidal thoughts became worse. 

Over the past few weeks developed intent and plan to buy a gun
and shoot self in the head, and did not follow through because 
he
was on vacation on ___ in ___ when symptoms were 
at
their peak, did not have access to a gun, and was talked down by
his wife and psychiatrist.  His psychiatrist, Dr. ___,
became concerned for his safety and ___ him to ___ ED
___ wks ago, where he was then placed at ___.  It was
determined there between patient, Dr. ___
treaters that he would benefit from ECT treatment given being
refractory to multiple antidepressants, was safely discharged at
the end of last week, and through coordination between Dr. ___ set up direct admit to ___ for ECT
treatment.  
     Patient notes during this period of worsening depression to
also have decreased interests, difficulty falling asleep, 
extreme
fatigue, feeling "low", gaining weight, decreased concentration,
no change in memory, no increased feelings of guilt, with
worsening SI before going into hospital.  Though he sometimes 
has
on-and-off SI since his discharge he states this is currently
under control at this time, that these thoughts are more 
passive,
contracts for safety, does not have intent or plan at this
moment, and says "I don't want to do it at this time".  He notes
that his depression has kept him from properly caring for 
himself
and caring for his family (has been a stay-at-home dad, his
daughter is currently with his wife), prevents him from doing
basic tasks at home such as cooking and cleaning.  
     This is complicated by worsening alcohol use disorder.  He
had longstanding drinking problem, which became worse ___ yrs 
ago
as per ___ records, with history of DTs, has intermittent
weeks being sober and intermittent periods of weeks drinking
between 400 and 750 cc vodka in a day.  He began increasing his
drinking approximately ___ weeks ago.  His last drink was about 
4
days before ___ ED arrival, approximately 2.5 weeks ago.
     He states 6 wks ago he and his psychiatrist found long-time
Effexor to be ineffective, switched to parnate (MAOi) 50 mg very
briefly.  For a period of time, reports having withdrawal
symptoms from Effexor with belly pains, fatigue, and general
discomfort.  He relapsed recently again on alcohol to
self-medicate depression, with up to a bottle of vodka per day
for a few days.  His wife found him drinking about 2.5 wks ago,
they got into an argument, while drunk he either "pushed" or
"punched" his wife (different written reports use different 
words
from ___ paperwork), police were called, he was
charged with A and B.  He now lives in a hotel, but misses his
family and regrets what happened.  When briefly arrested for A
and B ___ days), he states there was legal confusion about what
___ meant and was on suicide watch in local prison. 
Afterwards he went to ___ ED and then ___ for about ___
days.  It was decided with his home psychiatrist to not continue
parnate at ___ in preparation for future ECT.  At ___
was given Topamax for alcohol cravings ___ days, which patient
did not find helpful, one day of doxepin 50 mg qhs and one day 
of
melatonin 6 mg PO qhs.  Patient did not continue these
medications since about ___ when discharged.  With home
psychiatrist Dr. ___ was started on new Seroquel 100 mg PO
BID yesterday.  
     Patient denies withdrawal symptoms, such as tremors, N/V,
loose stools, abdominal pains, or acutely worsening anxiety.  

 
Past Medical History:
Previous knee surgery
 
Social History:
___
Family History:
Mother severe depression, ETOH and past suicide attempt
 
Physical Exam:
VS:  T 98.4, BP 140/96, P ___ (H), RR 16, O2 Sat 96% RA,
Gen: NAD, sitting comfortably.
HEENT: PERRLA, EOMI, MMM, no carotid bruits, no JVD
Ht: RRR, no MRG
Lungs: CTAB, symmetric chest wall motion, no increased work of
breathing
Abd: Soft, nontender, nondistended, normoactive BS, no guarding
Ext: Has police monitor on left lower leg.  No leg tenderness,
edema or erythema bilaterally, 2+ bilateral ___ pulses
Neuro-
Cranial Nerves-CN II-XII intact.  
Motor:
Moving all extremities, ___ proximal and distal bilateral arm 
and
leg strength
2+ biceps and patellar reflexes bilaterally

Sensation: Normal light touch sensation of proximal and distal
extremities bilaterally
Coordination:
     Finger-nose-finger: intact
     Fine finger tapping: intact
     Heel to shin: intact
Gait/Romberg: Normal
Neurological:
    *station and gait: WNL  
    *tone and strength: Moving all extremities.
    cranial nerves: CN II-XII intact
    abnormal movements: No tremors, tics or dyskinesias,
psychomotor retardation present.
    frontal release: None 

 
Pertinent Results:
___ 07:45PM   GLUCOSE-98 UREA N-16 CREAT-1.1 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-24 ANION GAP-17
___ 07:45PM   estGFR-Using this
___ 07:45PM   ALT(SGPT)-28 AST(SGOT)-18 ALK PHOS-70 TOT 
BILI-0.1
___ 07:45PM   ALBUMIN-4.4 CALCIUM-9.6 PHOSPHATE-4.1 
MAGNESIUM-1.9
___ 07:45PM   TSH-2.3
___ 07:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:45PM   WBC-9.6 RBC-4.99 HGB-15.3 HCT-44.2 MCV-89 
MCH-30.7 MCHC-34.6 RDW-12.6 RDWSD-40.8
___ 07:45PM   NEUTS-63.8 ___ MONOS-8.6 EOS-2.6 
BASOS-0.9 IM ___ AbsNeut-6.12* AbsLymp-2.29 AbsMono-0.83* 
AbsEos-0.25 AbsBaso-0.09*
___ 07:45PM   PLT COUNT-301
 
Brief Hospital Course:
PSYCHIATRIC
 #)Major Depressive Disorder

On admission, patient was extremely guarded and irritable with 
the team. He continually endorsed depression, but could further 
characterize this depression and denied all neurovegetative 
symptoms. During hospitalization, he was evaluated by the 
medical team and cleared for ECT. He underwent 12 treatments of 
ECT, 6 of which were bilateral.  During his hospitalization, he 
was initially very resistant to engaging in individual or group 
therapy. He did start attending groups, but did not participate 
or engage in a meaningful way.  He did participate in 
psychiatric testing in which he scored high in depression and 
aggressive personality traits. He was continued on Seroquel at 
200mg qHS throughout his hospitalization. With the ECT, his mood 
and affect slightly improved as he was less irritable. 

 On discharge, mood was fine, MSE was pertinent for lack of SI, 
brighter affect and goal-directed thought process. 
 
#) Alcohol Use disorder
Although patient was reluctant to engage in discussion about his 
history of drinking he did attend Smart Recovery groups on the 
unit. He was engaged in the groups and found them to be very 
helpful.  He will continue treatment at the ___ 
___. 

Safety: The patient remained in good behavioral control 
throughout this hospitalization and did not require physical or 
chemical restraint. The patient remained on 15 minute checks, 
which is our lowest acuity level of checks.

GENERAL MEDICAL CONDITIONS
 No general medical conditions.

PSYCHOSOCIAL
 #) MILIEU/GROUPS
 The patient was animated, euthymic, and participatory in the 
milieu. The patient was very visible on the unit and frequently 
had conversations with his peers. He attended some groups. He 
never engaged in any unsafe behaviors. The pt ate all meals in 
the milieu, slept well, and cooperated with unit rules.

 #) FAMILY CONTACTS
 Family meeting was held with the patient's wife and was notable 
for extensive discharge planning. They understand and are in 
agreement with the current treatment and discharge plan.

 #) COLLATERAL
We spoke with the patient's therapist and psychiatrist, who both 
agreed that the patient had been showing more signs of 
depression and increased drinking in the weeks leading up to 
this hospitalization.

LEGAL STATUS
 The pt remained on a CV throughout the duration of this 
admission.

RISK ASSESSMENT:
 This patient does not abuse substances, is not 
suicidal/homicidal, is feeling well and is animated, euthymic, 
and participatory in the milieu, all of which indicate a low 
immediate risk of harm.
 Despite history of assaultive behaviors low risk to harm others 
given he is not abusing substances and has maintained his safety 
on the unit.
 Static risk factors include:
 -chronic and severe mental illness, impulsive/aggressive 
tendencies
 Modifiable risk factors include:
 - financial stressors,  low mood. We modified this risk by 
giving the patient ECT treatments. 
 Protective factors include:
 -Protective factors include current outpatient 
providers/treatment, strong connections to family . Current risk 
is low for intentional self-harm given that patient denies 
suicidal ideation, intent and plan, is accepting of treatment, 
is currently sober and is future oriented with plans to 
participate in inpatient alcohol rehab. 

INFORMED CONSENT
 I discussed the indications for, intended benefits of, and 
possible side effects and risks of this medication, and risks 
and benefits of possible alternatives, including not taking the 
medication, with this patient.  We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and I answered the patient's questions.  The 
patient appeared able to understand and consented to begin the 
medication.

PROGNOSIS:
Fair due to the fact that although patient is currently stable 
and denies any suicidal ideation, he continues to be in a 
pre-contemplative stage of change in terms of his alcohol use.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 100 mg PO BID 

 
Discharge Medications:
1. QUEtiapine Fumarate 200 mg PO Q2030 
RX *quetiapine 200 mg 1 tablet(s) by mouth qpm Disp #*15 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder
Alcohol use disorder

 
Discharge Condition:
Improved-both
Denies any SI active or passive

 
Discharge Instructions:
Discharge Instructions
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 

 
Followup Instructions:
___